US06248739B1
tert-Butyl 2-[3-{[(4-chlorobenzyl)amino]carbonyl}-6-(3-hydroxy-1-propynyl)-4-oxo-1(4H)-quinolinyl]acetate
To a dry flask under an atmosphere of argon gas containing 0.23 g of tert-butyl 2-[3-{[(4-chlorobenzyl)amino]carbonyl}-6-iodo-4-oxo-1(4H)-quinolinyl]acetate from Preparation No. 26, 0.01 g of copper (I) iodide and 0.03 g of dichlorobis(triphenylphosphine)palladium (II) is added diethylamine (2.0 mL) and propargyl alcohol (0.03 mL). After 1 hour the reaction is diluted with DMF (1.0 mL) and left to stir overnight. The reaction is concentrated under reduced pressure, diluted with dichloromethane containing a small amount of methanol, and partioned against water. The organic layer is washed with brine, dried and concentrated under reduced pressure. The residue is adsorbed onto silica and chromatographed on silica eluting with 2% to 4% methanol in dichloromethane . The product-containing fractions are combined and concentrated under reduced pressure to afford 0.13 g of the title compound as a solid.

reactant | tert-butyl 2-[3-{[(4-chlorobenzyl)amino]carbonyl}-6-iodo-4-oxo-1(4H)-quinolinyl]acetate | 0.23 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)I)CC(=O)OC(C)(C)C)C=C1 | C23H22ClIN2O4
reactant | diethylamine | 2.0 mL | C(C)NCC | C4H11N
reactant | propargyl alcohol | 0.03 mL | C(C#C)O | C3H4O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.01 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.03 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 2-[3-{[(4-chlorobenzyl)amino]carbonyl}-6-(3-hydroxy-1-propynyl)-4-oxo-1(4H)-quinolinyl]acetate | 0.13 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CC(=O)OC(C)(C)C)C=C1 | C26H25ClN2O5
